US09193693B2
Step 1. (R)-methyl 3-(3-hydroxypyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into an 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), (R)-pyrrolidin-3-ol hydrochloride (212 mg, 1.72 mmol, 4.00 equiv), potassium carbonate (200 mg, 1.55 mmol, 3.00 equiv), toluene (5 mL), DMSO (1.7 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of 20 ml of water. The resulting solution was extracted with 5×10 mL of dichloromethane and the organic layers combined and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (70:1). This resulted in 147.4 mg (95%) of (R)-methyl 3-(3-hydroxypyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | (R)-pyrrolidin-3-ol hydrochloride | 1.72 mmol, 212 mg, 4.00 equiv | Cl.N1C[C@@H](CC1)O
reactant | potassium carbonate | 1.55 mmol, 200 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMSO | 1.7 mL | CS(=O)C | C2H6OS
product | (R)-methyl 3-(3-hydroxypyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate | O[C@H]1CN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C20H19N3O3
